US08106190B2
Ethyl 4-amino-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoate was allowed to react with sodium nitrite (NaNO2) and trifluoroborane-hydrogen fluoride complex (BF3.HF) in water at 10° C. for 10 minutes. By post-treating the reaction liquid, ethyl 4-fluoro-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoate was obtained.

reactant | Ethyl 4-amino-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoate | NC1=CC(=C(C(=O)OCC)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | C19H29N3O2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | trifluoroborane hydrogen fluoride | FB(F)F.F
solvent | water | O | H2O
product | ethyl 4-fluoro-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoate | FC1=CC(=C(C(=O)OCC)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | C19H27FN2O2
